US07432284B2
NaH (0.31 g of a 60% dispersion in mineral oil, 7.6 mmol) was added to an ice-cold solution of 2-ethyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone (1.48 g, 7.2 mmol) in anhydrous DMF (14.4 mL). The mixture was purged with N2 and stirred at 0-5° C. for 45 minutes. Allyl iodide (1.0 mL, 10.9 mmol) was added and, after a few minutes, the cooling bath was removed. After stirring overnight at room temperature, the mixture was partitioned between EtOAc and water, and the aqueous phase was back-extracted several times with EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by Biotage™ (Charlottesville, Va.) flash chromatography to afford 2-allyl-2-ethyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone as an oil.

reactant | NaH | [H-].[Na+]
reactant | 2-ethyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone | 7.2 mmol, 1.48 g | C(C)C1C(C2=CC=C(C=C2CC1)OC)=O | C13H16O2
reactant | Allyl iodide | 10.9 mmol, 1.0 mL | C(C=C)I | C3H5I
reactant | DMF | 14.4 mL | CN(C)C=O | C3H7NO
product | 2-allyl-2-ethyl-6-methoxy-3,4-dihydro-1(2H)-naphthalenone | C(C=C)C1(C(C2=CC=C(C=C2CC1)OC)=O)CC | C16H20O2
